US07915443B2
methyl 3-[N-({5-[(3-{[(1,3-dimethyl-1H-pyrazol-5-yl)carbonyl]amino}phenyl)ethynyl]pyridin-3-yl}carbonyl)-S-methylsulfonimidoyl]benzoate
In a manner similar to that described in Example 460, methyl 3-{N-[(5-bromopyridin-3-yl)carbonyl]-S-methylsulfonimidoyl}benzoate and N-(3-ethynylphenyl)-1,3-dimethyl-1H-pyrazole-5-carboxamide were reacted to give the title compound.

reactant | methyl 3-{N-[(5-bromopyridin-3-yl)carbonyl]-S-methylsulfonimidoyl}benzoate | BrC=1C=C(C=NC1)C(=O)N=S(=O)(C)C=1C=C(C(=O)OC)C=CC1 | C15H13BrN2O4S
reactant | N-(3-ethynylphenyl)-1,3-dimethyl-1H-pyrazole-5-carboxamide | C(#C)C=1C=C(C=CC1)NC(=O)C1=CC(=NN1C)C | C14H13N3O
product | methyl 3-[N-({5-[(3-{[(1,3-dimethyl-1H-pyrazol-5-yl)carbonyl]amino}phenyl)ethynyl]pyridin-3-yl}carbonyl)-S-methylsulfonimidoyl]benzoate | CN1N=C(C=C1C(=O)NC=1C=C(C=CC1)C#CC=1C=C(C=NC1)C(=O)N=S(=O)(C)C=1C=C(C(=O)OC)C=CC1)C | C29H25N5O5S
